US08609150B2
2.47 g (13.5 mmol) of 5-chloro-3-cyano-4-methyl-2-methoxypyridine was dissolved in 50 ml of anhydrous dichloromethane, the solution was cooled to −78° C., and 20.3 ml (20.3 mmol) of a toluene solution of 1M diisobutylammonium hydride was dropwise added slowly. After stirring at −78° C. for two and a half hours, the temperature was gradually increased to room temperature, and stirring was carried out at the same temperature for three days. The obtained solution was cooled in an ice bath, and 30 ml of water was slowly added to terminate the reaction. The reaction mixture was poured into 150 ml of 1N hydrochloric acid, followed by extraction with 100 ml of dichloromethane twice. The dichloromethane solution was washed with 100 ml of a saturated sodium chloride solution and dried over magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain crude 5-chloro-3-formyl-4-methyl-2-methoxypyridine. 1H-NMR (400 MHz, CDCl3): δ(ppm) 2.65 (s, 3H), 4.03 (s, 3H), 8.25 (s, 1H), 10.48 (s, 1H)

reactant | 5-chloro-3-cyano-4-methyl-2-methoxypyridine | 13.5 mmol, 2.47 g | ClC=1C(=C(C(=NC1)OC)C#N)C | C8H7ClN2O
reactant | toluene | 20.3 mmol, 20.3 ml | C1(=CC=CC=C1)C | C7H8
reactant | diisobutylammonium hydride | 1M | [H-].C(C(C)C)[NH2+]CC(C)C
reactant | hydrochloric acid | 1N, 150 ml | Cl | ClH
reactant | water | 30 ml | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 5-chloro-3-formyl-4-methyl-2-methoxypyridine | ClC=1C(=C(C(=NC1)OC)C=O)C | C8H8ClNO2
